US06194406B1
4-(1-(2-(Isopropoxy)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic Acid Salt
Combine 1-(t-butoxycarbonyl)-4-(1-(2-(isopropoxy)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane (0.63 g, 1.57 mmol), aqueous hydriodic acid (5 mL, 57%), and ethanol (10 mL). Heat to reflux. After 1 hour, cool to ambient temperature and pour the reaction mixture into diethyl ether (350 mL) and stir to give a solid. After 1 hour, collect the solid by filtration, rinse with diethyl ether, and dry in vacuo to give the title compound.

reactant | 1-(t-butoxycarbonyl)-4-(1-(2-(isopropoxy)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | 1.57 mmol, 0.63 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCOC(C)C)C=CC=C2 | C22H34N4O3
reactant | hydriodic acid | 5 mL | I | HI
reactant | ethanol | 10 mL | C(C)O | C2H6O
solvent | diethyl ether | 350 mL | C(C)OCC | C4H10O
product | 4-(1-(2-(Isopropoxy)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic Acid Salt | I.C(C)(C)OCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | InChI=1S/C17H26N4O.HI/c1-14(2)22-13-12-21-16-7-4-3-6-15(16)19-17(21)20-10-5-8-18-9-11-20;/h3-4,6-7,14,18H,5,8-13H2,1-2H3;1H
